US04812470
9-Acetoxynonanoyl chloride (4.0 g, 17 mmol) was slowly added to a solution of diazomethane (40 mmol) in ether (100 ml) at 0° C. After 1 h at 0° C. concentrated hydrobromic acid (20 ml) was added. After 1 h at 20° C. the ether was separated, dried (MgSO4), and evaporated under reduced pressure to give 10-bromo-9-oxodecyl acetate as a yellow oil (4.4 g 88%); δH (CDCl3) 4.0 (2H, t, O), 3.8 (2H, s, CH2Br), 2.6 (2H, t, CH2CO), 2.0 (3H, s, OAC), 1.1-1.8 (12H, m, (CH2)6).

reactant | 9-Acetoxynonanoyl chloride | 17 mmol, 4.0 g | C(C)(=O)OCCCCCCCCC(=O)Cl | C11H19ClO3
reactant | diazomethane | 40 mmol | [N+](=[N-])=C | CH2N2
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | ether | 100 ml | CCOCC | C4H10O
product | 10-bromo-9-oxodecyl acetate | C(C)(=O)OCCCCCCCCC(CBr)=O | C12H21BrO3
